### ISSUE TITLE
`exact` cannot close goal with term that matches exactly

### ISSUE THREAD

**Issue by mhuisi** [leanprover/lean4#2099]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

In the following code, `exact` unexpectedly fails to close the goal in `ex1`, `ex4` and `ex5`. There is also some unexpected behavior related to `this` in `ex5`.

```lean
def p : Prop := ∀ {n : Nat}, n = 0 → True

theorem ex1 : p := by
  have h : p := sorry
  exact h -- type mismatch: `h` has type `?m.48 = 0 → True : Prop` but is expected to have type `p : Prop`

theorem ex2 : p := by
  have h : p := sorry
  exact @h -- no goals

theorem ex3 : p := by
  have h : p := sorry
  assumption -- no goals

theorem ex4 : p := by
  have : p := sorry
  exact this -- type mismatch: `this` has type `?m.48 = 0 → True : Prop` but is expected to have type `p : Prop`

theorem ex5 : p := by
  have : p := sorry
  exact @this -- type mismatch: `this` has type `?m.48 = 0 → True : Prop` but is expected to have type `p : Prop`

theorem ex6 : p := by
  have : p := sorry
  assumption -- no goals

theorem h : p := sorry
theorem ex7 : p := by exact h -- no goals
theorem ex8 : p := h -- no goals
```

### Versions

Lean (version 4.0.0-nightly-2023-02-06, commit 15a045ee6625, Release)
Windows 10

**Comment by rwbarton** [comment]
I guess your intent would be clearer to Lean if you used the double curly braces binder `∀ ⦃n : Nat⦄, n = 0 → True`.

**Comment by Kha** [comment]
`@this` does not give a type error anymore so I think this is working as expected
